### PR TITLE
[Merged by Bors] - feat: port NumberTheory.LegendreSymbol.MulCharacter

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/!4.232994.20NumberTheory.2ELegendreSymbol.2EMulCharacter)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by adomani** [comment]
I merged master, added two docstrings and *removed* the simp tags from two lemmas in a different file that rubbed the linter the wrong way.

Other than that, all is good, although I do not really deserve any credit for it!  : 😊

File: Mathlib/Data/MvPolynomial/Supported.lean [hunk 1]
```diff
@@ -60,15 +60,15 @@ noncomputable def supportedEquivMvPolynomial (s : Set σ) : supported R s ≃ₐ
     (AlgEquiv.ofInjective (rename ((↑) : s → σ)) (rename_injective _ Subtype.val_injective)).symm
 #align mv_polynomial.supported_equiv_mv_polynomial MvPolynomial.supportedEquivMvPolynomial
 
-@[simp]
+--@[simp]  -- the `simpNF` linter complained about this lemma.
```
Comment (eric-wieser) [inline Mathlib/Data/MvPolynomial/Supported.lean:63]: Comments like this should include the words `porting note:`

Comment (adomani) [inline Mathlib/Data/MvPolynomial/Supported.lean:63]:
```suggestion
--@[simp]  -- porting note: the `simpNF` linter complained about this lemma.
```

File: Mathlib/Data/MvPolynomial/Supported.lean [hunk 2]
```diff
@@ -60,15 +60,15 @@ noncomputable def supportedEquivMvPolynomial (s : Set σ) : supported R s ≃ₐ
...
 theorem supportedEquivMvPolynomial_symm_C (s : Set σ) (x : R) :
     (supportedEquivMvPolynomial s).symm (C x) = algebraMap R (supported R s) x := by
   ext1
   simp [supportedEquivMvPolynomial, MvPolynomial.algebraMap_eq]
 set_option linter.uppercaseLean3 false in
 #align mv_polynomial.supported_equiv_mv_polynomial_symm_C MvPolynomial.supportedEquivMvPolynomial_symm_C
 
-@[simp]
+--@[simp]  -- the `simpNF` linter complained about this lemma.
```
Comment (adomani) [inline Mathlib/Data/MvPolynomial/Supported.lean:71]:
```suggestion
--@[simp]  -- porting note: the `simpNF` linter complained about this lemma.
```

File: Mathlib/Data/MvPolynomial/Supported.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/Data/MvPolynomial/Supported.lean]: Added `porting note:`s!

File: Mathlib/NumberTheory/LegendreSymbol/MulCharacter.lean [hunk 3]
```diff
@@ -0,0 +1,572 @@
...
+variable (R : Type u) [CommMonoid R]
+
+-- The target
+variable (R' : Type v) [CommMonoidWithZero R']
+
+/-- Define a structure for multiplicative characters.
+A multiplicative character from a commutative monoid `R` to a commutative monoid with zero `R'`
+is a homomorphism of (multiplicative) monoids that sends non-units to zero. -/
+structure MulChar extends MonoidHom R R' where
+  /-- Require that non-units map to `0`. -/
```
Comment (adomani) [inline Mathlib/NumberTheory/LegendreSymbol/MulCharacter.lean:74]: Docs added during the port.

File: Mathlib/NumberTheory/LegendreSymbol/MulCharacter.lean [hunk 4]
```diff
@@ -0,0 +1,572 @@
...
+  map_nonunit' : ∀ a : R, ¬IsUnit a → toFun a = 0
+#align mul_char MulChar
+/-- This is the corresponding extension of `monoid_hom_class`. -/
+class MulCharClass (F : Type _) (R R' : outParam <| Type _) [CommMonoid R]
+  [CommMonoidWithZero R'] extends MonoidHomClass F R R' where
+  /-- Require `χ` maps non-units to `0`. -/
```
Comment (adomani) [inline Mathlib/NumberTheory/LegendreSymbol/MulCharacter.lean:80]: Docs added during the port

File: Mathlib/Data/MvPolynomial/Supported.lean [hunk 5]
```diff
@@ -60,15 +60,15 @@ noncomputable def supportedEquivMvPolynomial (s : Set σ) : supported R s ≃ₐ
     (AlgEquiv.ofInjective (rename ((↑) : s → σ)) (rename_injective _ Subtype.val_injective)).symm
 #align mv_polynomial.supported_equiv_mv_polynomial MvPolynomial.supportedEquivMvPolynomial
 
-@[simp]
+--@[simp]  -- porting note: the `simpNF` linter complained about this lemma.
```
Comment (jcommelin) [inline Mathlib/Data/MvPolynomial/Supported.lean:63]: In what sense? Did it claim that simp can prove this? Or that the LHS doesn't simplify?

File: Mathlib/Data/MvPolynomial/Supported.lean [hunk 6]
```diff
@@ -60,15 +60,15 @@ noncomputable def supportedEquivMvPolynomial (s : Set σ) : supported R s ≃ₐ
...
 theorem supportedEquivMvPolynomial_symm_C (s : Set σ) (x : R) :
     (supportedEquivMvPolynomial s).symm (C x) = algebraMap R (supported R s) x := by
   ext1
   simp [supportedEquivMvPolynomial, MvPolynomial.algebraMap_eq]
 set_option linter.uppercaseLean3 false in
 #align mv_polynomial.supported_equiv_mv_polynomial_symm_C MvPolynomial.supportedEquivMvPolynomial_symm_C
 
-@[simp]
+--@[simp]  -- porting note: the `simpNF` linter complained about this lemma.
```
Comment (jcommelin) [inline Mathlib/Data/MvPolynomial/Supported.lean:71]: Idem

File: Mathlib/NumberTheory/LegendreSymbol/MulCharacter.lean (hunk 3 above)
Comment (jcommelin) [reply Mathlib/NumberTheory/LegendreSymbol/MulCharacter.lean:74]: Hmm, the linter shouldn't complain about this, because the doc linter has been disabled in CI (for now).

File: Mathlib/Data/MvPolynomial/Supported.lean (hunk 5 above)
Comment (Parcly-Taxel) [reply Mathlib/Data/MvPolynomial/Supported.lean:63]:
```
-- Found 2 errors in 117592 declarations (plus 289330 automatically generated ones) in mathlib with 12 linters

/- The `simpNF` linter reports:
SOME SIMP LEMMAS ARE NOT IN SIMP-NORMAL FORM.
see note [simp-normal form] for tips how to debug this.
https://leanprover-community.github.io/mathlib_docs/notes.html#simp-normal%20form -/
-- Mathlib.Data.MvPolynomial.Supported
#check MvPolynomial.supportedEquivMvPolynomial_symm_C.{u_1, u} /- LINTER FAILED:
simplify fails on left-hand side:
failed to synthesize
  CommMonoidWithZero { x // x ∈ MvPolynomial.supported R s }
(deterministic) timeout at 'typeclass', maximum number of heartbeats (20000) has been reached (use 'set_option synthInstance.maxHeartbeats <num>' to set the limit) -/
#check MvPolynomial.supportedEquivMvPolynomial_symm_X.{u_1, u} /- LINTER FAILED:
simplify fails on left-hand side:
failed to synthesize
  CommMonoidWithZero { x // x ∈ MvPolynomial.supported R s }
(deterministic) timeout at 'typeclass', maximum number of heartbeats (20000) has been reached (use 'set_option synthInstance.maxHeartbeats <num>' to set the limit) -/
```

File: Mathlib/Data/MvPolynomial/Supported.lean (hunk 6 above)
Comment (Parcly-Taxel) [reply Mathlib/Data/MvPolynomial/Supported.lean:71]: See above.

File: Mathlib/NumberTheory/LegendreSymbol/MulCharacter.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/NumberTheory/LegendreSymbol/MulCharacter.lean]: You are right, I noticed this by running the linter locally and decided to act on it, since I assumed that the CI linter error was this one.  When the CI linter was still unhappy, I realized that it was a different linting error...

Comment (adomani) [reply Mathlib/NumberTheory/LegendreSymbol/MulCharacter.lean]: Same as above: the local linter picked up these two.

File: Mathlib/Data/MvPolynomial/Supported.lean (hunk 5 above)
Comment (adomani) [reply Mathlib/Data/MvPolynomial/Supported.lean]: Thanks, Eric!  I reinstated the `simp` attribute and unlinted it.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
